US07842685B2
Synthesis of 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)-2-pyrrolidinone
3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzenamine (110 mg, 0.304 mmol) was dissolved in ethyl 4-bromobutanoate (59 mg, 0.304 mmol) before it was placed in the microwave for 60 min at 140° C. The title compound was obtained after flash chromatography. MS (ESI) m/z: Calculated: 429.1; Observed: 430.1 (M++1).

reactant | 3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzenamine | 0.304 mmol, 110 mg | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)N | C21H16FN3S
reactant | ethyl 4-bromobutanoate | 0.304 mmol, 59 mg | BrCCCC(=O)OCC | C6H11BrO2
product | 1-(3-fluoro-4-(5-(1-phenylcyclopropyl)[1,3]thiazolo[5,4-b]pyridin-2-yl)phenyl)-2-pyrrolidinone | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)N1C(CCC1)=O | C25H20FN3OS
